US07531532B2
4-{2-Fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine
To a solution of 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine (66.2 mg) in tetrahydrofuran (4.0 ml) was added a solution of 2-phenylacetyl isocyanate in hexane (0.25 M, 1.5 ml) at room temperature, followed by stirring overnight. The reaction mixture was concentrated under reduced pressure. The resultant residue was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate:methanol=97:3) to provide the titled compound (49.5 mg, 55%) as white powder.

reactant | 4-(4-amino-2-fluorophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 66.2 mg | NC1=CC(=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1)F | C22H29FN6O2
reactant | 2-phenylacetyl isocyanate | C1(=CC=CC=C1)CC(=O)N=C=O | C9H7NO2
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | hexane | 0.25 M, 1.5 ml | CCCCCC | C6H14
product | 4-{2-Fluoro-4-[3-(2-phenylacetyl)ureido]phenoxy}-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 49.5 mg, 55% | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=CC(=C1)NC(=O)NC(CC1=CC=CC=C1)=O | C31H36FN7O4
